US06362212B1
1M diisobutylaluminum hydride/toluene solution (11 ml, 16.5 mmol) was added dropwise to a mixture of methyl 2-[(α-methyl-3-trifluoromethylbenzylidene)aminooxy]-α-methoxyiminophenylacetate (4.83 g, 11.8 mmol) and dichloromethane (47 ml) at −65° C. or lower over 4 minutes, and the mixture was stirred at −78° C. to room temperature for 3 hours. Methanol (7 ml) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hour. The precipitated insoluble materials were removed, and the remaining mixture was concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-[(α-methyl-3-trifluoromethylbenzylidene)aminooxy]-α-methoxyiminophenylacetaldehyde (2.11 g, 47.3%) as a colorless

reactant | diisobutylaluminum hydride toluene | 16.5 mmol, 1M, 11 ml | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | methyl 2-[(α-methyl-3-trifluoromethylbenzylidene)aminooxy]-α-methoxyiminophenylacetate | 11.8 mmol, 4.83 g | CC(C1=CC(=CC=C1)C(F)(F)F)=NOC1=C(C=CC=C1)C(C(=O)OC)=NOC | C19H17F3N2O4
reactant | dichloromethane | 47 ml | ClCCl | CH2Cl2
solvent | Methanol | 7 ml | CO | CH4O
product | 2-[(α-methyl-3-trifluoromethylbenzylidene)aminooxy]-α-methoxyiminophenylacetaldehyde | 2.11 g, 47.3% | CC(C1=CC(=CC=C1)C(F)(F)F)=NOC1=C(C=CC=C1)C(C=O)=NOC | C18H15F3N2O3
